US06048864
(c) Methyl 3,4-dimethoxy-2-methylsulfonyloxy-6-nitrobenzoate
Concentrated nitric acid (0.62 ml) was added dropwise to an ice cooled solution of methyl 3,4-dimethoxy-2-methanesulfonyloxybenzoate (1.94 g, 0.0067 mol) in acetic anhydride (3 ml) and the reaction stirred for 1 hour. Water (20 ml) was carefully added, and the resulting precipitate filtered and washed with further water. Drying under suction filtration gave the subtitle compound as a white solid (1.94 g, 86%). 1H-NMR (CDCl3): δ=3.34 (3H, s), 3.94 (3H, s), 4.00 (3H, s), 4.18 (3H, s), 7.68 (1H, s).

reactant | nitric acid | 0.62 ml | [N+](=O)(O)[O-] | HNO3
reactant | methyl 3,4-dimethoxy-2-methanesulfonyloxybenzoate | 0.0067 mol, 1.94 g | COC=1C(=C(C(=O)OC)C=CC1OC)OS(=O)(=O)C | C11H14O7S
reactant | Water | 20 ml | O | H2O
solvent | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Methyl 3,4-dimethoxy-2-methylsulfonyloxy-6-nitrobenzoate | 1.94 g, 86% | COC=1C(=C(C(=O)OC)C(=CC1OC)[N+](=O)[O-])OS(=O)(=O)C | C11H13NO9S
